US07157488B2
2-(2-(5-Amino-1H-indol-3-yl)ethyl)isoindole-1,3-dione
Combine a mixture of 2-(2-(5-nitro-1H-indol-3-yl)ethyl)isoindole-1,3-dione (1.8 g, 5.4 mmol), PtO2 (500 mg), 100 mL MeOH and 100 mL THF and hydrogenate at atmospheric pressure overnight. Filter the reaction through a pad of celite and concentrate to dryness. Redissolve the residue in 50/50 chloroform/dichloromethane and refilter through a pad of celite. Concentration under vacuum give the title compound as a dark solid: ISMS 306 (M+1); Analysis for C18H13N3O4 0.1C7H8 0.2 dichloromethane: calcd: C, 68.70; H, 4.89; N, 12.58; found: C, 69.08; H, 4.75; N, 12.69; 1H NMR (CDCl3) 7.9–7.8 (m, 3H), 7.75–7.65 (m, 2H), 7.2–7.1 (m, 1H), 7.05–7.0 (m, 2H), 6.7–6.6 (m, 1H), 4.0–3.9 (m, 2H), 3.4 (bs, 2H), 3.1–3.0 (m, 2H).

reactant | 2-(2-(5-nitro-1H-indol-3-yl)ethyl)isoindole-1,3-dione | 5.4 mmol, 1.8 g | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C18H13N3O4
reactant | MeOH | 100 mL | CO | CH4O
catalyst | PtO2 | 500 mg | O=[Pt]=O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-(2-(5-Amino-1H-indol-3-yl)ethyl)isoindole-1,3-dione | NC=1C=C2C(=CNC2=CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C18H15N3O2
